### PR TITLE
Fix #11592: Side effect safety may be broken by universe effects

### LINKED ISSUE #11592: Side effect safety may be broken by universe effects
This requires a plugin and is caught by the checker. In the plugin:
~~~ocaml
TACTIC EXTEND magic
| [ "magic" ident(i) ident(j) ] -> {
  DeclareUniv.do_constraint ~poly:false [ GType (Libnames.qualid_of_ident i), Univ.Lt, GType (Libnames.qualid_of_ident j)]; Proofview.tclUNIT()
}
END
~~~
In the .v:
~~~coq
Universes i j.

Lemma foo@{} : Type@{j}.
Proof.
  magic i j; transparent_abstract exact_no_check Type@{i}.
Defined.

Definition bar : Type@{i} := Type@{j}.
~~~
Note that using `Constraint i < j.` instead of `magic`  doesn't cause the issue because it gets replayed.

### PR DESCRIPTION
**Pull request by ppedrot**
We store the set of current constraints in the side-effect certificate, and we replay those constraints against the current environment. This is more elegant than storing the universe extensions in the revstruct.

Fixes #11592.

### CODE REVIEW

**Comment by ppedrot** [comment]
I am running a benchmark to see if this has consequences, but I am not expecting this to have a tremendous impact.

**Comment by ppedrot** [comment]
No observable difference in the bench.
```
┌─────────────────────────────┬─────────────────────────┬─────────────────────────────────────────────┬─────────────────────────────────────────────┬───────────────────────────────┬───────────────────┐
│                             │      user time [s]      │                 CPU cycles                  │              CPU instructions               │     max resident mem [KB]     │    mem faults     │
│                             │                         │                                             │                                             │                               │                   │
│                package_name │     NEW     OLD PDIFF   │               NEW               OLD PDIFF   │               NEW               OLD PDIFF   │        NEW        OLD PDIFF   │  NEW  OLD PDIFF   │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                   coq-verdi │  116.25  116.54 -0.25 % │      322419544898      322320306951 +0.03 % │      417605249076      417537820517 +0.02 % │     553408     553468 -0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-mathcomp-ssreflect │   49.50   49.56 -0.12 % │      135489431681      135393516890 +0.07 % │      176616856800      176532062409 +0.05 % │     568832     568684 +0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│       coq-mathcomp-fingroup │   49.20   49.25 -0.10 % │      136672484512      136886318069 -0.16 % │      190302063395      190326142738 -0.01 % │     557504     557528 -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│        coq-mathcomp-algebra │  145.73  145.87 -0.10 % │      407031283732      405607330014 +0.35 % │      539716700672      539577749131 +0.03 % │     614456     614388 +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                 coq-unimath │ 4034.02 4035.04 -0.03 % │    11230590701468    11234856555637 -0.04 % │    21440530264475    21424825087421 +0.07 % │    1011340    1011368 -0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-compcert │  676.82  676.96 -0.02 % │     1887315323946     1885867618326 +0.08 % │     2647843686368     2647774092010 +0.00 % │    1037668    1037620 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                 coq-bignums │   62.98   62.96 +0.03 % │      174817669321      174692644956 +0.07 % │      244839780483      244867472477 -0.01 % │     485216     485212 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│       coq-performance-tests │   11.55   11.54 +0.09 % │       31719011666       31693289989 +0.08 % │       54828431079       54698264638 +0.24 % │     410392     410172 +0.05 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                  coq-sf-plf │   43.91   43.84 +0.16 % │      122548087163      122355537827 +0.16 % │      168830262649      168803995177 +0.02 % │     494812     486676 +1.67 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                   coq-color │  654.34  653.12 +0.19 % │     1825590055988     1819795538198 +0.32 % │     2319905742112     2319929871292 -0.00 % │    1140456    1140324 +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│             coq-lambda-rust │ 1543.08 1539.39 +0.24 % │     4301626733697     4290020074117 +0.27 % │     6208949965163     6210363697368 -0.02 % │    1136592    1138808 -0.19 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                 coq-coqutil │   57.48   57.33 +0.26 % │      159682224994      159009570377 +0.42 % │      203681254919      203667019648 +0.01 % │     535608     535548 +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                   coq-flocq │  200.11  199.55 +0.28 % │      555071710811      554037986811 +0.19 % │      715885489953      715893753538 -0.00 % │     927124     927024 +0.01 % │    0    1 -100.00 % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-mathcomp-character │  164.34  163.84 +0.31 % │      456958990447      456071123907 +0.19 % │      639342480205      639369041339 -0.00 % │     805592     824028 -2.24 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│            coq-fiat-parsers │  597.41  595.56 +0.31 % │     1673472709718     1668786911411 +0.28 % │     2680589185047     2680550558005 +0.00 % │    3135396    3135132 +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│       coq-mathcomp-solvable │  176.10  175.52 +0.33 % │      490197604820      489592619730 +0.12 % │      697605974368      697569317974 +0.01 % │     793372     793252 +0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│             coq-fiat-crypto │ 4437.81 4422.06 +0.36 % │    12332376028700    12286496744443 +0.37 % │    20297692566629    20305651987785 -0.04 % │    2377656    2361252 +0.69 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│               coq-fiat-core │  103.17  102.78 +0.38 % │      291210832756      290367777240 +0.29 % │      389064599743      388960965928 +0.03 % │     498328     497952 +0.08 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-bedrock2 │  213.10  212.28 +0.39 % │      590574427899      588329560337 +0.38 % │      983446250241      983374909497 +0.01 % │    1119396    1119240 +0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│          coq-mathcomp-field │  263.06  261.95 +0.42 % │      732929424292      729973684986 +0.40 % │     1124197034855     1124128234392 +0.01 % │     790716     790712 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│              coq-verdi-raft │ 1260.24 1254.35 +0.47 % │     3513260913050     3494897629748 +0.53 % │     4960359239513     4960264877310 +0.00 % │    1820552    1820516 +0.00 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                    coq-corn │ 1427.54 1420.25 +0.51 % │     3980276562006     3959221176759 +0.53 % │     6157800190897     6157936295977 -0.00 % │     848704     848828 -0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-coqprime │   84.54   84.10 +0.52 % │      232494975783      232158439541 +0.14 % │      334388940219      334404925701 -0.00 % │     758544     757496 +0.14 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│               coq-fourcolor │ 2114.74 2102.82 +0.57 % │     5901230834752     5866175477204 +0.60 % │    11490780190070    11490793068974 -0.00 % │     952564     952612 -0.01 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│            coq-math-classes │  206.38  205.17 +0.59 % │      575710935286      572011706156 +0.65 % │      770403587743      770371488393 +0.00 % │     518360     518596 -0.05 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                coq-rewriter │  573.83  570.37 +0.61 % │     1593201398062     1582896174680 +0.65 % │     2446038580380     2445158529245 +0.04 % │     909032     909192 -0.02 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-fiat-crypto-legacy │ 5971.75 5929.08 +0.72 % │    16629091571924    16508302168217 +0.73 % │    28027030186831    28022323635480 +0.02 % │    2439672    2396356 +1.81 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                    coq-hott │  310.20  307.96 +0.73 % │      842447675810      836827283122 +0.67 % │     1353601694346     1353601501916 +0.00 % │     628620     628612 +0.00 % │    1    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│ coq-rewriter-perf-SuperFast │ 1005.36  998.05 +0.73 % │     2800318293308     2780761977408 +0.70 % │     4553058492923     4552451019138 +0.01 % │    1022216     930300 +9.88 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│      coq-mathcomp-odd-order │ 1359.02 1346.67 +0.92 % │     3789120608849     3753098649257 +0.96 % │     6726606095185     6726185490639 +0.01 % │    1300284    1300660 -0.03 % │    0    0  +nan % │
├─────────────────────────────┼─────────────────────────┼─────────────────────────────────────────────┼─────────────────────────────────────────────┼───────────────────────────────┼───────────────────┤
│                  coq-geocoq │ 1531.25 1516.78 +0.95 % │     4268310323415     4237554421170 +0.73 % │     6495935706235     6495929173774 +0.00 % │    1303132    1303584 -0.03 % │    0    0  +nan % │
└─────────────────────────────┴─────────────────────────┴─────────────────────────────────────────────┴─────────────────────────────────────────────┴───────────────────────────────┴───────────────────┘
```

**Comment by ppedrot** [comment]
@SkySkimmer on first principles and without consideration for code nitpicks, do you prefer this fix to the one you proposed?

**Comment by ppedrot** [comment]
@SkySkimmer ping

**Review by SkySkimmer — APPROVED** [review]
The new test needs a .sh like https://github.com/coq/coq/blob/master/test-suite/misc/poly-capture-global-univs.sh

**Comment by SkySkimmer** [comment]
Will merge once the test is fixed.

**Comment by ppedrot** [comment]
Done. You should wait for the test-suite to go through just in case.

**Comment by ppedrot** [comment]
@SkySkimmer CI failures are spurious, the test-suite went through still, so this is ready.

File: test-suite/misc/side-eff-leak-univs/theories/evil.v [hunk 1]
```diff
@@ -0,0 +1,10 @@
+Declare ML Module "evil_plugin".
+
+Universes i j.
+
+Lemma foo@{} : Type@{j}.
+Proof.
+  magic i j; transparent_abstract exact_no_check Type@{i}.
+Defined.
+
+Definition bar : Type@{i} := Type@{j}.
```
Comment (SkySkimmer) [inline test-suite/misc/side-eff-leak-univs/theories/evil.v]: This shouldn't pass though

Comment (ppedrot) [reply test-suite/misc/side-eff-leak-univs/theories/evil.v]: I don't get it. It does fail on my machine, what do you call "pass"?

Comment (SkySkimmer) [reply test-suite/misc/side-eff-leak-univs/theories/evil.v]: Oh I see you caught the failure in the .sh instead of in the .v
